US06222043B1
(R)-N-(2-methylbenzyl)-3-[(2S,3S)-3-amino-2-hydroxy-4-phenylbutanoyl]-5,5-dimethyl-1,3-thiazolidine-4-carboxamide
To a 146 mL solution of (R)-N-(2-methylbenzyl)-5,5-dimethyl-1,3-thiazolidine-4-carboxamide (10.10 g) in ethyl acetate, was added (2S,3S)-3-N-tert-butoxycarbonylamino-2-hydroxy-4-phenylbutyric acid (10.70 g) and 1-hydroxybenzotriazole hydrate (5.58 g). To this solution was added a mixture of 1,3-dicyclohexylcarbodiimide (8.63 g) and ethyl acetate (17 Ml) under ice-cooling. The resulting mixture was stirred overnight at room temperature, and insoluble matter formed was removed by filtration. The filtrate was washed successively with 5% aqueous sodium bicarbonate, 1 N hydrochloric acid, and 20% aqueous sodium chloride, and the organic solution was dried over sodium sulfate. The drying agent was removed by filtration, and the filtrate was concentrated to about 110 mL under reduced pressure. Methanesulfonic acid (10.6 mL) then was added to the solution to react at room temperature for 2 h, and the reaction mixture was neutralized with 5% aqueous sodium bicarbonate to crystallize a solid, followed by addition of methanol (120 mL). The crude crystals were collected by filtration, washed successively with 50% (v/v) aqueous methanol and a mixture of ethyl acetate and 2-propanol (4:1), and dried under reduced pressure to provide 11.92 g of the title compound.

reactant | (R)-N-(2-methylbenzyl)-5,5-dimethyl-1,3-thiazolidine-4-carboxamide | 10.10 g | CC1=C(CNC(=O)[C@H]2NCSC2(C)C)C=CC=C1 | C14H20N2OS
reactant | 1-hydroxybenzotriazole hydrate | 5.58 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1,3-dicyclohexylcarbodiimide | 8.63 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (R)-N-(2-methylbenzyl)-3-[(2S,3S)-3-amino-2-hydroxy-4-phenylbutanoyl]-5,5-dimethyl-1,3-thiazolidine-4-carboxamide | 11.92 g | CC1=C(CNC(=O)[C@H]2N(CSC2(C)C)C([C@H]([C@H](CC2=CC=CC=C2)N)O)=O)C=CC=C1 | C24H31N3O3S
